*
* Linear Technology LT1013D op amp model (with calls for LT1014D)
* LT1013D updated from original model on 05-18-1990
*
* Connections:    + - V+V-O
.SUBCKT LT1013D 1 2 3 4 5
*
C1 11 12 8.661E-12
C2 6 7 30.00E-12
DC 8 53 DX
DE 54 8 DX
DLP 90 91 DX
DLN 92 90 DX
DP 4 3 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 2.475E9 -2E9 2E9 2E9 -2E9
GA 6 0 11 12 113.1E-6
GCM 0 6 10 99 225.7E-12
IEE 3 10 DC 12.03E-6
HLIM 90 0 VLIM 1K
Q1 11 102 13 QM1
Q2 12 101 14 QM2
RB1 2 102 400
RB2 1 101 400
DCM1 105 102 DX
DCM2 105 101 DX
VCMC 105 4 DC 0.4
R2 6 9 100.0E3
RC1 4 11 8.841E3
RC2 4 12 8.841E3
RE1 13 10 4.519E3
RE2 14 10 4.519E3
REE 10 99 16.63E6
RO1 8 5 80
RO2 7 99 25
IP 3 4 328E-6
VB 9 0 DC 0
VC 3 53 DC 1.610
VE 54 4 DC .61
VLIM 7 8 DC 0
VLP 91 0 DC 25
VLN 0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL QM1 PNP (IS=8.000E-16 BF=3.974E+02)
.MODEL QM2 PNP (IS=8.062E-16 BF=4.027E+02)
.ENDS
*---------------------------------------------------------------
* CONNECTIONS: + - V+V-O
.SUBCKT LT1014D 1 2 3 4 5
*
X_LT1014D 1 2 3 4 5 LT1013D
.ENDS
*---------------------------------------------------------------

***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1990
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *
